US04628057
(3R)-9-Benzyl-2-[(2-thenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 51, (3R)-9-benzyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (1.225 g), 10N NaOH (0.8 ml), carbon disulfide (0.24 ml), dimethylsulfoxide (30 ml) and 2-thenyl chloride (0.66 g) are reacted and treated to give the title compound (0.635 g) as pale yellow powder.

reactant | (3R)-9-benzyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.225 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C[C@@H](NCC12)C(=O)O | C19H18N2O2
reactant | NaOH | 10N, 0.8 ml | [OH-].[Na+]
reactant | carbon disulfide | 0.24 ml | C(=S)=S | CS2
reactant | 2-thenyl chloride | 0.66 g | C1(=CC=CS1)CCl | C5H5ClS
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | (3R)-9-Benzyl-2-[(2-thenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 0.635 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C[C@@H](N(CC12)C(=S)SCC1=CC=CS1)C(=O)O | C25H22N2O2S3
